US04110536
5-(5-Chloroindol-3-ylmethyl)-3-(diethylaminopropyl)hydantoin
5-(5-Chloroindol-3-ylmethyl)hydantoin (5 g, 0.019 mole) was added to a solution of sodium (0.88 g) in 200 ml of anhydrous C2H5OH. After heating to reflux for 30 minutes, 3-diethylaminopropyl chloride hydrochloride (3.54 g, 0.019 mole) was added and the mixture was heated to reflux with stirring for 18 hours. The mixture was filtered and diluted with H2O to form a solid. The solid was recrystallized from aqueous 2-propanol, twice from acetone-petroleum ether and again from 2-propanol, yield 1.8 g, mp 186°.

reactant | 5-(5-Chloroindol-3-ylmethyl)hydantoin | 0.019 mole, 5 g | ClC=1C=C2C(=CNC2=CC1)CC1C(NC(N1)=O)=O | C12H10ClN3O2
reactant | sodium | 0.88 g | [Na] | Na
reactant | 3-diethylaminopropyl chloride hydrochloride | 0.019 mole, 3.54 g | Cl.C(C)N(CCCCl)CC
solvent | C2H5OH | 200 ml | C(C)O | C2H6O
product | 5-(5-Chloroindol-3-ylmethyl)-3-(diethylaminopropyl)hydantoin | ClC=1C=C2C(=CNC2=CC1)CC1C(N(C(N1)=O)CCCN(CC)CC)=O | C19H25ClN4O2
